US08748418B2
Prepared in an analogous manner as described for intermediate A9A or A13A from (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (intermediate A16B) (200 mg, 546 μmol) and commercially available 5-amino-2-chloropyridine [CAS no 5350-93-6] (140 mg, 1.09 mmol). The (R)-5-(5-(6-chloropyridin-3-ylamino)-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (74 mg, 32.7%) was obtained as a light brown foam. MS (ISP): m/z=414.2 [(M+H)+] and 416.2 [(M+2+H)+].

reactant | (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 546 μmol, 200 mg | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C14H15BrF3NO2
reactant | 5-amino-2-chloropyridine | NC=1C=CC(=NC1)Cl | C5H5ClN2
product | (R)-5-(5-(6-chloropyridin-3-ylamino)-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 74 mg, 32.7% | ClC1=CC=C(C=N1)NC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C19H19ClF3N3O2
